US04380468
2-Methyl-6-chlorophenylisonitrile
The procedure of Example 1 was again followed, using 100 g (0.7 mole) of 2-methyl-6-chloroaniline, 75 ml of chloroform, 100 ml of methylene chloride, 175 ml of 50% aqueous sodium hydroxide, and 1 g of benzyltriethylammonium chloride. The product was a solid weighing 44 g, with structure confirmed by mass spectroscopy.

reactant | 2-methyl-6-chloroaniline | 0.7 mole, 100 g | CC1=C(N)C(=CC=C1)Cl | C7H8ClN
reactant | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
reactant | sodium hydroxide | 175 ml | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 1 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-Methyl-6-chlorophenylisonitrile | CC1=C(C(=CC=C1)Cl)[N+]#[C-] | C8H6ClN
